US03993674
Preparation of cyclopentylacetyl chloride
To a solution of 50 g. of cyclopentaneacetic acid containing 2.9 ml. of N,N-dimethylformamide is added dropwise with stirring, 51 g. of thionyl chloride over a period of 15 minutes. After stirring for an additional 60 minutes excess thionyl chloride is removed in vacuo and the residual oil is distilled to give 55.4 g. (97%) of product, b.p. 57°-58° C. (10 mm.).

reactant | cyclopentaneacetic acid | 2.9 ml | C1(CCCC1)CC(=O)O | C7H12O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | cyclopentylacetyl chloride | C1(CCCC1)CC(=O)Cl | C7H11ClO
